US05137895
4-Amino-5-chloro-2-(propenyloxy)benzoic acid
A suspension of 60% sodium hydride/oil dispersion (1.52 g, 0.038 mole) in anhydrous dimethylformamide (50 ml) under nitrogen was treated in portions with 4-amino-5-chloro-2-hydroxybenzoic acid methyl ester (6.05 g, 0.030 mole), stirred at room temperature for 30 minutes, and treated with allyl bromide (4.60 g, 0.038 mole). The mixture was stirred at 95°±5° C. for one hour, cooled to room temperature, and added to water (250 ml). The solid was removed by filtration and saved, and the filtrate was extracted with ether (2×100 ml). The concentrated ethereal extracts were combined with the filtered solid, taken up in 20% aqueous ethanol (100 ml), treated with potassium hydroxide (10 g), and refluxed for 45 minutes. The ethanol was removed in vacuo and the aqueous solution was extracted with ether (50 ml) and petroleum ether (30°-60°, 50 ml), cooled (0° C.), and acidified to pH 4 with concentrated hydrochloric acid (17 ml). The suspension was filtered and solid was air dried, dissolved in methylene chloride (150 ml) containing a little methanol, dried (sodium sulfate), and concentrated in vacuo. Trituration from cold ether/petroleum ethers (30°-60°) and recrystallization from ethyl acetate/hexane (2 crops) afforded 4.25 g (62.2%) of the title compound as a pale tan solid; mp 136°-137° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 4-amino-5-chloro-2-hydroxybenzoic acid methyl ester | 0.030 mole, 6.05 g | COC(C1=C(C=C(C(=C1)Cl)N)O)=O | C8H8ClNO3
reactant | allyl bromide | 0.038 mole, 4.60 g | C(C=C)Br | C3H5Br
reactant | water | 250 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-Amino-5-chloro-2-(propenyloxy)benzoic acid | 4.25 g, 62.2% | NC1=CC(=C(C(=O)O)C=C1Cl)OC=CC | C10H10ClNO3
